US07666878B2
[1-(3-Cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
1M BBr3 in CH2Cl2 (7.66 mL, 7.66 mmol) is added to a solution of [1-(3-cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (0.495 g, 1.27 mmol) in CH2Cl2 (2 mL). The reaction mixture is exposed to microwave irradiation at 60° C. for 45 minutes. Water is added to the reaction mixture which is stirred for further 20 minutes. The organic layer is isolated using the Isolute™ phase separator cartridge and evaporated. The residue is loaded on a pre-packed Isolute™ silica column and eluted using a gradient eluent from 100% CH2Cl2 to 5% methanol in CH2Cl2 to afford the title compound; MH+=374.

reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | [1-(3-cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 1.27 mmol, 0.495 g | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)F)C#N)C)=O | C18H14FN3O4S
reactant | Water | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7.66 mmol, 7.66 mL | C(Cl)Cl | CH2Cl2
product | [1-(3-Cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C | C17H12FN3O4S
